US08664425B2
2-[2-(Naphthalene-2-sulfonylamino)-benzoylamino]-benzoic acid ethyl ester
A 1 L three-necked flask was charged with 67.7 g (0.158 mol) N-[2-(4-oxo-4H-3,1-benzoxazin-2-yl)phenyl]-2-naphthalenesulfonamide) and 200 g ethanol. Under stirring, 0.33 g sodium hydroxide (0.0083 mol, correlates to 5.2% of applied raw material) was added. After 15 minutes, the reaction mixture was heated until reflux for 5 hours. Completion of the reaction was monitored by thin layer chromatography. After the 5 hours, the intermediate mixture was cooled to 20° C., and within 20 minutes 4.5 g of 10% hydrochloric acid solution (0.012 mol) was added drop wise. The precipitate consisted of tiny white crystals, and was stirred for 1 hour at room temperature, then filtered by suction, washed with first 150 ml ethanol, then 300 ml water and dried at 85° C. in a circulating air oven.

reactant | N-[2-(4-oxo-4H-3,1-benzoxazin-2-yl)phenyl]-2-naphthalenesulfonamide | 0.158 mol, 67.7 g | O=C1OC(=NC2=C1C=CC=C2)C2=C(C=CC=C2)NS(=O)(=O)C2=CC1=CC=CC=C1C=C2 | C24H16N2O4S
reactant | sodium hydroxide | 0.0083 mol, 0.33 g | [OH-].[Na+]
reactant | hydrochloric acid | 0.012 mol, 4.5 g | Cl | ClH
reactant | ethanol | 200 g | C(C)O | C2H6O
product | 2-[2-(Naphthalene-2-sulfonylamino)-benzoylamino]-benzoic acid ethyl ester | C(C)OC(C1=C(C=CC=C1)NC(C1=C(C=CC=C1)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1)=O)=O | C26H22N2O5S
